US07585886B2
A 0.30 ml portion of DMSO was dissolved in 5 ml of dichloromethane, and 0.18 ml of oxalyl chloride was added thereto while keeping the internal temperature at −60° C. or less. After 30 minutes of stirring, a dichloromethane solution (5 ml) of 323 mg of benzyl 6-{(3R,4S)-3-(hydroxymethyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate was added thereto while keeping the internal temperature at −60° C. or less, successively stirring this for 30 minutes. The reaction solution was mixed with 0.87 ml of triethylamine while keeping the internal temperature at −50° C. or less, and then stirred at −78° C. for 4.5 hours. Thereafter, work-up was carried out in the standard method to obtain benzyl 6-{(3R,4S)-3-formyl-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate as a crude product. A mixture of the thus obtained crude product, 143 mg of (R)-(+)-1-(1-naphthyl)ethylamine, acetic acid and 5 ml of 1,2-dichloroethane was stirred for 20 minutes, and then mixed with 443 mg of sodium triacetoxyborohydride at room temperature and stirred at room temperature for 17Hours, successively carrying out work-up and purification in the standard method to obtain 312 mg of benzyl 6-{(3S,4S)-3-({[(1R)-1-(naphthyl)ethyl]amino}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate.

reactant | DMSO | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.18 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl 6-{(3R,4S)-3-(hydroxymethyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate | 323 mg | OC[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)OCC1=CC=CC=C1)=O | C25H28F3NO4
reactant | triethylamine | 0.87 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | benzyl 6-{(3R,4S)-3-formyl-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate | C(=O)[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)OCC1=CC=CC=C1)=O | C25H26F3NO4
